US04820828
2,5-Dimethoxy-N-methylcinnamohydroxamic acid
A solution of 2,5-dimethoxycinnamic acid (2.08 g, 10 mmol), oxalyl chloride (0.96 ml, 11 mmol) and N,N-dimethylformamide (two drops) in 25 ml dichloromethane was stirred for 20 minutes. The resulting solution was evaporated to leave a yellow solid, which was then dissolved in 10 ml of acetone. This solution was added slowly to a stirred mixture of water (20 ml), sodium carbonate (2.5 g, 24 mmol), and N-methylhydroxylamine hydrochloride (1.06 g, 12.7 mmol), cooled to 5° C. The resulting mixture was stirred for 20 minutes, then poured into excess 1M hydrochloric acid and extracted twice with ethyl acetate. The extracts were washed wth water and 1N NaHCO3, dried over MgSO4, and evaporated to leave an orange oil. Chromatography on silica gel with 7:3 ethyl acetate-hexane provided 0.96 g (40% yield) of the named compound, mp 111°-112° C., after recrystallization from hexane-1,2-dichloroethane.

reactant | 2,5-dimethoxycinnamic acid | 10 mmol, 2.08 g | COC1=C(C=CC(=O)O)C=C(C=C1)OC | C11H12O4
reactant | oxalyl chloride | 11 mmol, 0.96 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium carbonate | 24 mmol, 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-methylhydroxylamine hydrochloride | 12.7 mmol, 1.06 g | Cl.CNO
reactant | hydrochloric acid | 1M | Cl | ClH
catalyst | N,N-dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | 20 ml | O | H2O
product | 2,5-Dimethoxy-N-methylcinnamohydroxamic acid | 0.96 g, 40% yield | COC1=C(C=CC(=O)N(O)C)C=C(C=C1)OC | C12H15NO4
